US04515948
A solution of 360 mg. of sodium in 100 ml. of absolute ethanol was treated with 2.8 g. of guanidine carbonate and 2.0 g. of 4-(3-anilino-2-cyano-allyl)-2,6-dimethoxy carbanilic acid ethyl ester and boiled under reflux for 20 hours. The solution was diluted with 100 ml. of water and the alcohol removed under vacuum. After standing at room temperature for 1 hour, the precipitate was removed by filtration with suction, washed with water and dissolved in about 200 ml. of boiling ethanol. The solution was chromatographed on 100 g. of silica gel using ethanol/ethyl acetate (1:1) and there was obtained 4-[(2,4-diamino-5-pyrimidinyl)-methyl]-2,6-dimethoxy-carbanilic acid ethyl ester which, after recrystallization from ethanol, had a melting point of 228° C. (decomposition).

reactant | sodium | [Na] | Na
reactant | guanidine carbonate | C(O)(O)=O.NC(=N)N
reactant | 4-(3-anilino-2-cyano-allyl)-2,6-dimethoxy carbanilic acid ethyl ester | C(C)OC(NC1=C(C=C(C=C1OC)CC(=CNC1=CC=CC=C1)C#N)OC)=O | C21H23N3O4
solvent | ethanol | C(C)O | C2H6O
product | 4-[(2,4-diamino-5-pyrimidinyl)-methyl]-2,6-dimethoxy-carbanilic acid ethyl ester | C(C)OC(NC1=C(C=C(C=C1OC)CC=1C(=NC(=NC1)N)N)OC)=O | C16H21N5O4
